* CDL/LVS-oriented netlist
.SUBCKT mux3_x1 D0 D1 D2 S0 S1 X VDD VSS
XM3S0_P0 s0_b S0 VDD VDD pmos w=2u l=100n
XM3S0_N0 s0_b S0 VSS VSS nmos w=1u l=100n
XM3S1_P0 s1_b S1 VDD VDD pmos w=2u l=100n
XM3S1_N0 s1_b S1 VSS VSS nmos w=1u l=100n
XM3a0_MP0 mux3_m01 S0 D0 VDD pmos w=2u l=100n
XM3a0_MN0 mux3_m01 s0_b D0 VSS nmos w=1u l=100n
XM3a0_MP1 mux3_m01 s0_b D1 VDD pmos w=2u l=100n
XM3a0_MN1 mux3_m01 S0 D1 VSS nmos w=1u l=100n
XM3b0_MP0 X S1 mux3_m01 VDD pmos w=2u l=100n
XM3b0_MN0 X s1_b mux3_m01 VSS nmos w=1u l=100n
XM3b0_MP1 X s1_b D2 VDD pmos w=2u l=100n
XM3b0_MN1 X S1 D2 VSS nmos w=1u l=100n
.ENDS mux3_x1
